2186-05-12 05:11:00 Physician Resident Progress Note
Chief Complaint:
   25 year old man with ESRD on HD, DM, recent PE who presented with
   hyperkalemia, CP and hypertensive urgency.
   24 Hour Events:
   - anion gap improved overnight
   - placed on insulin drip for FSGs in 460-480s range, then got
   hypoglycemic to 30s requiring 1AMP dextrose, FSGs normalized to
   120-130s range
   -decreased lantus dose
   - holding Coumadin, on heparin gtt for pulmonary embolism
   -very somnolent s/p dilaudid/IV Ativan--> ABG without significant
   hypercarbia so proceeded to get head CT  which was negative (prelim)
   - got IV ativan and on Haldol for agitation per psych recs
   - demanded to see psych overnight, very agitated and getting up/
   yelling, needed to call security
   .
   - TTE: mild pulm HTN, mild MR, mild MVP and LVH, EF 70%
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Dextrose 50% - [**2186-5-11**] 10:45 PM
   Hydralazine - [**2186-5-12**] 01:27 AM
   Lorazepam (Ativan) - [**2186-5-12**] 02:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-12**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (72 - 102) bpm
   BP: 171/101(126) {169/89(118) - 197/109(143)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,381 mL
                                                                    368 mL
   PO:
                                                                    815 mL
             TF:
   IVF:
                                                                  1,516 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -644 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.43/49/98.[**Numeric Identifier 248**]/29/6
   Physical Examination
   General :  no acute distress, alert and oriented x3
   HEENT: PERRL, MMM, OP clear
   NECK:  no JVD appreciated, supple, no LAD
   LUNGS: clear bilaterally, no rales, crackles or wheezing
   CVS:  regular S1/S2 . no m/r/g
   ABD: soft, NT/ND, normoactive  bowel sounds
   EXT: 2+ distal pulses.
   NEURO: CN 2-12 intact, limited vision,  full 5/5 strength in upper and
   lower extremities, sensation intact , no pronator drift or focal exam
   findings
   SKIN:  several tattoos, small scabs over [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **] tunneled HD catheter  appears c/d/i
   Labs / Radiology
   450 K/uL
   7.5 g/dL
   103 mg/dL
   5.4 mg/dL
   29 mEq/L
   4.7 mEq/L
   24 mg/dL
   95 mEq/L
   132 mEq/L
   23.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2186-5-10**]  11:00 PM
                             [**2186-5-10**]  11:05 PM
                             [**2186-5-11**]  02:38 AM
                             [**2186-5-11**]  04:04 AM
                             [**2186-5-11**]  04:20 PM
                             [**2186-5-11**]  07:36 PM
                             [**2186-5-11**]  07:43 PM
                             [**2186-5-12**]  03:39 AM
   WBC
   7.9
   7.5
   Hct
   23.7
   23.7
   Plt
   515
   450
   Cr
   9.4
   9.6
   4.3
   4.6
   5.4
   TropT
   0.32
   0.29
   TCO2
   34
   Glucose
   108
   108
   161
   [**Telephone/Fax (3) 12103**]
   Other labs: PT / PTT / INR:13.1/71.2/1.1, CK / CKMB /
   Troponin-T:146/3/0.29, ALT / AST:65/92, Alk Phos / T Bili:545/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:249 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   .
   25 year old man with ESRD on HD, DM, recent PE who presented with
   hyperkalemia, CP and hypertensive urgency.
   .
   #Hypertensive urgency:  Slowly improving. Likely related to his
   longstanding medication noncompliance.  Also seems to be anxiety and
   agitation component. Additional volume overload also may contribute as
   patient has ESRD and is on HD.  Neuro exam continues to be non-focal
   and head CT negative. Recent  cardiac enzymes negative.
   .
   - continue labetolol drip, and combination of current ACE, [**Last Name (un) 239**],
   clonidine, hydralazine
   - add back home Norvasc dose
   - wean labetolol drip
 switch to PO labetolol
   - SBP goals 160-180s now
   - continue with HD today
   - Social work consult for med compliance
   .
   # Hyperkalemia:  Resolved issue now. Was likely from ESRD and possible
   shifts in setting of poor glucose control.
   EKG showed peaked Ts. Initially given calcium, insulin/glucose,
   kayexalate.
   - trending daily K, continue hemodialysis sessions
   - continue with Telemetry
   -f/up renal recs
   .
    #Chest pain: Resolved now. Although  + nonspecific ST/T changes on EKG
   , cardiac enzymes showed flat CK levels. Most likely due to small
   pulmonary emboli  vs. anxiety as opposed to true  ACS issue.  Imaging
   r/o dissection.
   on CTA .
   - telemetry
   - aspirin 325mg for now
   .
   #Right sub-segmental PE :  No evidence of recurrent clot on CTA on this
   admission.  Confirmed at recent [**Hospital1 183**] admission, reviewed discharge
   records.
   - Heparin drip with coag monitoring for goal PTT 60-80
   - holding  warfarin while in ICU setting
   .
   #Somnolence: Improved. Occurred yesterday in setting of Benadryl,
   dilaudid and ativan. Meds probably lingered in setting of ESRD.  CT
   head negative and no e/o hypercarbia on ABG.
   -          decrease dose Ativan, only give PRN
   -          d/c dilaudid
   .
   # ESRD on HD
   - f/up renal recs
   - HD today
   - Continue sevelemer, nephrocaps
   - dosed nephrocaps and Vit D at HD sessions
   .
   # DM:  Erratic glucose control even on SSI and Glargine.  FSGs ranging
   from 30-480s and patient managed on insulin drip and then got 1 AMP
   dextrose for sudden drops.
   - keep lower dose 12Units Glargine with SSI for now
   - will call formal [**Last Name (un) 276**] consult
   - anion gap closing now, no e/o DKA at this time
   - diabetic diet , following fingersticks QID
   .
   # Anemia
 Hct appears near baseline in 23-25 range.
   - Check in with renal regarding epo schedule
   - recheck iron stores
   .
   # Thrombocytosis: Most likely  reactive to iron deficiency and ESRD
   - continue to follow daily labs
   .
   # Pruritis
 possible uremia related vs. prurigo nodularis
   - continue Sarna lotion, hydroxyzine and PRN Benadryl
   -
   -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2186-5-11**] 09:15 AM
   20 Gauge - [**2186-5-11**] 06:00 PM
   Arterial Line - [**2186-5-11**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-05-12 10:17:00 Physician Attending Progress Note
Chief Complaint: headache
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 yo M with DM1, ESRD, here with hypertensive urgency and behavioral
   issues.
   24 Hour Events:
   Overnight, increasingly difficult to control blood pressure, agitation,
   hyper/hypoglycemia
   He reached the allowed limit on labetolol drip with BP remaining
   210s/100s, took lisinopril, [**Last Name (un) 239**], clonidine 0.3 with BP eventually
   decreasing to 180s.
   He became agitated in the afternoon, refusing all medications,
   complaining of severe headache, bp 260s/130s, given ativan (total 7mg
   over 12 hours), 2 mg IV diluadid with eventual somnolence.  Given the
   mental status changes he had a head ct that was within normal limits.
   Overnight became confused, aggitated, trying to crawl out of bed,
   demanding to see psychiatry and eventually calmed down after speaking
   with psychiatry.
   He developed hyperglycemia to 400s, was started on insulin gtt and
   eventually bottomed out to 30s, glargine decreased
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Labetalol - 2 mg/min
   Other ICU medications:
   Dextrose 50% - [**2186-5-11**] 10:45 PM
   Lorazepam (Ativan) - [**2186-5-12**] 07:30 AM
   Omeprazole (Prilosec) - [**2186-5-12**] 08:00 AM
   Hydralazine - [**2186-5-12**] 08:30 AM
   Other medications:
   heparin
   omeprazole
   labetolol
   calcitriol
   clonidine 0.3
   losartan
   lisinopril
   labetolol
   sevalemer
   insulin gtt
   glargine 25 (recieved 1/2 dose)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-12**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 82 (82 - 102) bpm
   BP: 169/102(126) {150/83(105) - 197/109(143)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,381 mL
                                                                    724 mL
   PO:
                                                                    815 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,516 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -644 mL
                                                                    724 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.43/49/98.[**Numeric Identifier 248**]/29/6
   Physical Examination
   General Appearance: Thin, somnolent
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   450 K/uL
   103 mg/dL
   5.4 mg/dL
   29 mEq/L
   4.7 mEq/L
   24 mg/dL
   95 mEq/L
   132 mEq/L
   23.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2186-5-10**]  11:00 PM
                             [**2186-5-10**]  11:05 PM
                             [**2186-5-11**]  02:38 AM
                             [**2186-5-11**]  04:04 AM
                             [**2186-5-11**]  04:20 PM
                             [**2186-5-11**]  07:36 PM
                             [**2186-5-11**]  07:43 PM
                             [**2186-5-12**]  03:39 AM
   WBC
   7.9
   7.5
   Hct
   23.7
   23.7
   Plt
   515
   450
   Cr
   9.4
   9.6
   4.3
   4.6
   5.4
   TropT
   0.32
   0.29
   TCO2
   34
   Glucose
   108
   108
   161
   [**Telephone/Fax (3) 12103**]
   Other labs: PT / PTT / INR:13.1/71.2/1.1, CK / CKMB /
   Troponin-T:146/3/0.29, ALT / AST:65/92, Alk Phos / T Bili:545/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:249 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   25 yo M DM1, ESRD, here w htn emergency
   1. HTN:
    - cont labetolol gtt with aim to transition to oral labetolol
    - when he agrees to PO, cont norvasc, labetolol 600 tid, lisinopril
   40, clonidine patch 0.3
    - add back losartan if remains htn
    - if refusing PO meds, will continue labetolol gtt, hydralazine and
   clonidine
    - BP goal today 160-180
    - cont monitor s/sx end organ involvement (both hypertension and
   hyperperfusion)
   2. CHest Pain: no evidence CK
   3. Aggitation: patient intermittently refusing medical care or
   aggitated
    - cont ativan as needed + haldol
    - f/u ekg
   4. Hyper/hypoglycemia:
    - will consult [**Last Name (un) 276**] diabetes center
    - cont glargine + RISS
   5. history of PE:
    - cont heparin gtt, and holding coumadin while hemodynamically
   unstable
   6. ESRD:
    - HD today with aim tbb - 5L
    - sevelamer, reglan
    - calcitriol with HD
   7. Anemia: stable 23-24
   8. Pruritis: hydroxyzine and benadryl, sarna
   ICU Care
   Nutrition:
   Comments: diabetic/renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2186-5-11**] 09:15 AM
   20 Gauge - [**2186-5-11**] 06:00 PM
   Arterial Line - [**2186-5-11**] 06:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code.
   Disposition :ICU for now, Pschy to decide regarding need for inpatient
   psych evaluation when medically better
   Total time spent: 35 minutes
   Patient is critically ill

2186-05-13 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Oral BP meds increased to 600mg TID labetalol, added norvasc 10mg
   daily
   - Patient had 4L off at HD, after which dropped SBP to 120s at 1pm [**5-12**],
   so labetalol gtt turned off, given 500ml IVF bolus. SBP goal range
   160-180s
   - [**Last Name (un) 276**] consulted for labile BS, lantus decreased to 20units daily,
   sliding scale adjusted. overnight had one FS 461 -> 10 units humalog
   - Per psych, patient cannot leave AMA today, placed on ativan prn
   dosing for agitation
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2186-5-12**] 08:00 AM
   Hydralazine - [**2186-5-12**] 09:45 PM
   Heparin Sodium - [**2186-5-13**] 04:00 AM
   Lorazepam (Ativan) - [**2186-5-13**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-13**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 92 (82 - 101) bpm
   BP: 147/116(133) {142/66(90) - 201/116(133)} mmHg
   RR: 18 (11 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,187 mL
                                                                     84 mL
   PO:
                                                                    790 mL
             TF:
   IVF:
                                                                  1,397 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,813 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   465 K/uL
   8.2 g/dL
   461 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.7 mEq/L
   23 mg/dL
   93 mEq/L
   131 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2186-5-10**]  11:00 PM
                             [**2186-5-10**]  11:05 PM
                             [**2186-5-11**]  02:38 AM
                             [**2186-5-11**]  04:04 AM
                             [**2186-5-11**]  04:20 PM
                             [**2186-5-11**]  07:36 PM
                             [**2186-5-11**]  07:43 PM
                             [**2186-5-12**]  03:39 AM
                             [**2186-5-12**]  03:03 PM
                             [**2186-5-13**]  03:01 AM
   WBC
   7.9
   7.5
   9.8
   Hct
   23.7
   23.7
   25.8
   Plt
   [**Telephone/Fax (3) 12113**]
   Cr
   9.4
   9.6
   4.3
   4.6
   5.4
   4.0
   4.9
   TropT
   0.32
   0.29
   0.39
   TCO2
   34
   Glucose
   108
   108
   161
   [**Telephone/Fax (3) 12103**]
   168
   461
   Other labs: PT / PTT / INR:12.5/46.6/1.1, CK / CKMB /
   Troponin-T:93/3/0.39, ALT / AST:62/71, Alk Phos / T Bili:600/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:236 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 ANXIETY
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 PULMONARY EMBOLISM (PE), ACUTE
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   25 year old man with ESRD on HD, DM, recent PE who presented with
   hyperkalemia, CP and hypertensive urgency.
   .
   #Hypertensive urgency:  Slowly improving. Likely related to his
   longstanding medication noncompliance.  Also seems to be anxiety and
   agitation component. Additional volume overload also may contribute as
   patient has ESRD and is on HD.  Neuro exam continues to be non-focal
   and head CT negative. Recent  cardiac enzymes negative.
   .
   - continue labetolol drip, and combination of current ACE, [**Last Name (un) 239**],
   clonidine, hydralazine
   - add back home Norvasc dose
   - wean labetolol drip
 switch to PO labetolol
   - SBP goals 160-180s now
   - continue with HD today
   - Social work consult for med compliance
   .
   # Hyperkalemia:  Resolved issue now. Was likely from ESRD and possible
   shifts in setting of poor glucose control.
   EKG showed peaked Ts. Initially given calcium, insulin/glucose,
   kayexalate.
   - trending daily K, continue hemodialysis sessions
   - continue with Telemetry
   -f/up renal recs
   .
    #Chest pain: Resolved now. Although  + nonspecific ST/T changes on EKG
   , cardiac enzymes showed flat CK levels. Most likely due to small
   pulmonary emboli  vs. anxiety as opposed to true  ACS issue.  Imaging
   r/o dissection.
   on CTA .
   - telemetry
   - aspirin 325mg for now
   .
   #Right sub-segmental PE :  No evidence of recurrent clot on CTA on this
   admission.  Confirmed at recent [**Hospital1 183**] admission, reviewed discharge
   records.
   - Heparin drip with coag monitoring for goal PTT 60-80
   - holding  warfarin while in ICU setting
   .
   #Somnolence: Improved. Occurred yesterday in setting of Benadryl,
   dilaudid and ativan. Meds probably lingered in setting of ESRD.  CT
   head negative and no e/o hypercarbia on ABG.
   -          decrease dose Ativan, only give PRN
   -          d/c dilaudid
   .
   # ESRD on HD
   - f/up renal recs
   - HD today
   - Continue sevelemer, nephrocaps
   - dosed nephrocaps and Vit D at HD sessions
   .
   # DM:  Erratic glucose control even on SSI and Glargine.  FSGs ranging
   from 30-480s and patient managed on insulin drip and then got 1 AMP
   dextrose for sudden drops.
   - keep lower dose 12Units Glargine with SSI for now
   - will call formal [**Last Name (un) 276**] consult
   - anion gap closing now, no e/o DKA at this time
   - diabetic diet , following fingersticks QID
   .
   # Anemia
 Hct appears near baseline in 23-25 range.
   - Check in with renal regarding epo schedule
   - recheck iron stores
   .
   # Thrombocytosis: Most likely  reactive to iron deficiency and ESRD
   - continue to follow daily labs
   .
   # Pruritis
 possible uremia related vs. prurigo nodularis
   - continue Sarna lotion, hydroxyzine and PRN Benadryl
   ICU Care
   Nutrition: Diabetic, renal diet
   Glycemic Control:  Lantus 20 QHS and HISS
   Lines:
   Dialysis Catheter - [**2186-5-11**] 09:15 AM
   20 Gauge - [**2186-5-11**] 06:00 PM
   Arterial Line - [**2186-5-11**] 06:30 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: mother [**Name (NI) 179**] [**Numeric Identifier 12087**]
   [**Name2 (NI) 66**] status: Full code
   Disposition: ICU, but if BP stable on oral meds, can callout to medical
   floor

2186-05-13 10:49:00 Physician Attending Progress Note
Chief Complaint: Hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 year old man with PMH DM, HTN a/w hypertensive urgency
   24 Hour Events:
   Labetolol drip DC'd
   HD yesterday
   Seen by psych yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Hydralazine - [**2186-5-12**] 09:45 PM
   Heparin Sodium - [**2186-5-13**] 04:00 AM
   Lorazepam (Ativan) - [**2186-5-13**] 10:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: no chest pain
   Respiratory: no complaints
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-5-13**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 90 (84 - 101) bpm
   BP: 159/93(117) {153/76(93) - 166/112(122)} mmHg
   RR: 17 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,187 mL
                                                                    842 mL
   PO:
                                                                    790 mL
                                                                    700 mL
   TF:
   IVF:
                                                                  1,397 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,813 mL
                                                                    842 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   465 K/uL
   461 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.7 mEq/L
   23 mg/dL
   93 mEq/L
   131 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2186-5-10**]  11:00 PM
                             [**2186-5-10**]  11:05 PM
                             [**2186-5-11**]  02:38 AM
                             [**2186-5-11**]  04:04 AM
                             [**2186-5-11**]  04:20 PM
                             [**2186-5-11**]  07:36 PM
                             [**2186-5-11**]  07:43 PM
                             [**2186-5-12**]  03:39 AM
                             [**2186-5-12**]  03:03 PM
                             [**2186-5-13**]  03:01 AM
   WBC
   7.9
   7.5
   9.8
   Hct
   23.7
   23.7
   25.8
   Plt
   [**Telephone/Fax (3) 12113**]
   Cr
   9.4
   9.6
   4.3
   4.6
   5.4
   4.0
   4.9
   TropT
   0.32
   0.29
   0.39
   TCO2
   34
   Glucose
   108
   108
   161
   [**Telephone/Fax (3) 12103**]
   168
   461
   Other labs: PT / PTT / INR:12.5/46.6/1.1, CK / CKMB /
   Troponin-T:93/3/0.39, ALT / AST:62/71, Alk Phos / T Bili:600/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:236 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Agree with plan as outlined in resident note. Briefly, 25 y/o Type I
   diabetic with retinopathy, neuropathy,nephropathy pw/ hypertensive
   urgency.   Poor medical compliance.  Overall improved.
   HYPERTENSION URGENCY
 Improved BP control, now transitioned to po
   meds. Increase po labetolol today.  Monitor BP.
   A-FIB
 chronic, rate controlled.  Plan continue iv Heparin
   transition to coumadin.
   CRF
 tolerated HD, with net removal of fluid.  Plan resume usual HD
   schedule.
   IDDM
 improved glucose control.  Continue monitor glucose, continue
   insulin as scheduled.  [**Last Name (un) 276**] to follow.
   ANXIETY DISORDER
 underlying.  Appreciate psychiatry evaluation.
   Continue haldol prn
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale, Comments: glargine 20
   Lines:
   Dialysis Catheter - [**2186-5-11**] 09:15 AM
   20 Gauge - [**2186-5-11**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes